US08222256B2
5-Bromo-N4-(5-cyclopropyl-1H-pyrazol-3-yl)-N2-(4-dimethylaminobenzyl)-pyrimidine-2,4-diamine.
A mixture of 5-bromo-2-chloropyrimidin-4-yl-(5-cyclopropyl-1H-pyrazol-3-yl)-amine (313 mg, 1.00 mmol) and 4-dimethylaminobenzylamine (225 mg, 1.5 mmol) in 1-butanol (20 mL) was heated to 170° C. in a 50 mL sealed tube for 3 h. The mixture was cooled and diluted with ethyl acetate. The organic layer was washed with 2 N sodium hydroxide, water and brine and dried over sodium sulfate. The solution was concentrated, redissolved in DMF and purified by preparative reverse phase HPLC to give the desired product (124 mg, 29%) as a white solid.

reactant | 5-bromo-2-chloropyrimidin-4-yl-(5-cyclopropyl-1H-pyrazol-3-yl)-amine | 1.00 mmol, 313 mg | BrC=1C(=NC(=NC1)Cl)NC1=NNC(=C1)C1CC1 | C10H9BrClN5
reactant | 4-dimethylaminobenzylamine | 1.5 mmol, 225 mg | CN(C1=CC=C(CN)C=C1)C | C9H14N2
solvent | 1-butanol | 20 mL | C(CCC)O | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Bromo-N4-(5-cyclopropyl-1H-pyrazol-3-yl)-N2-(4-dimethylaminobenzyl)-pyrimidine-2,4-diamine | 124 mg, 29% | BrC=1C(=NC(=NC1)NCC1=CC=C(C=C1)N(C)C)NC1=NNC(=C1)C1CC1 | C19H22BrN7
